US08648066B2
3-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-ylsulfonyl]-5-{4-[(7S)-7-ethyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}pyridin-2-amine.
Prepared as dihydrochloride salt according to the method of example 5 by using {4-[(7S)-7-ethyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid (reagent preparation 23) and (1S,4S)-tert-butyl 5-(2-amino-5-bromopyridin-3-ylsulfonyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (reagent preparation 25) in step 1 followed by Boc deprotection. 1H NMR (400 MHz, methanol-d4): 8.65 (s, 1H), 8.52 (s, 2H), 7.74 (s, 1H), 7.53 (d, 1H), 7.08 (d, 1H), 5.24 (d, 1H), 5.14 (d, 1H), 4.56 (m, 2H), 4.46 (m, 1H), 4.36 (m, 1H), 4.21 (m, 1H), 3.69 (m, 3H), 3.53 (m, 1H), 3.38 (m, 1H), 2.99 (m, 2H), 2.74 (m, 1H), 2.42 (m, 1H), 2.05 (m, 3H), 1.83 (m, 1H), 1.47 (m, 2H), 1.24 (m, 1H), 1.01 (t, 3H); MS (EI) for C29H35N7O3S: 562 (MH+).

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | {4-[(7S)-7-ethyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid | C(C)[C@H]1CCC=2C(=NC=NC2C1)N1CCOC2=C(C1)C=C(C=C2)B(O)O | C19H24BN3O3
reactant | (1S,4S)-tert-butyl 5-(2-amino-5-bromopyridin-3-ylsulfonyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | NC1=NC=C(C=C1S(=O)(=O)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C)Br | C15H21BrN4O4S
product | 3-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-ylsulfonyl]-5-{4-[(7S)-7-ethyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}pyridin-2-amine | [C@@H]12N(C[C@@H](NC1)C2)S(=O)(=O)C=2C(=NC=C(C2)C=2C=CC1=C(CN(CCO1)C1=NC=NC=3C[C@H](CCC13)CC)C2)N | C29H35N7O3S
